US04898941
Into 12 ml of 6N--HCl solution was dissolved 4.65 g of N-phenylmorpholine. To the solution was added 1.5 g of pyruvic acid and the mixture was heated with reflux for 20 hours. The reaction mixture was, after cooled, diluted with 100 ml of water and adjusted to pH 6 with addition of 20% aqueous solution of sodium hydroxide. The precipitated crystal was collected by filtration which was 3.75 g (yield 66%) of 2,2-bis(4-morpholinophenyl)propionic acid, having a melting point of 217°~223° C.

reactant | HCl | Cl | ClH
reactant | N-phenylmorpholine | 4.65 g | C1(=CC=CC=C1)N1CCOCC1 | C10H13NO
reactant | pyruvic acid | 1.5 g | C(C(=O)C)(=O)O | C3H4O3
reactant | sodium hydroxide | [OH-].[Na+]
solvent | water | 100 ml | O | H2O
product | 2,2-bis(4-morpholinophenyl)propionic acid | 3.75 g, yield 66% | O1CCN(CC1)C1=CC=C(C=C1)C(C(=O)O)(C)C1=CC=C(C=C1)N1CCOCC1 | C23H28N2O4
